Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with hx of nephrotic syndrome (previously 
treated at ___ with prednisone/Cellcept, none 
currently) who presents as transfer from ___ with 
painful rash, lower-extremity
pain/weakness, and transient hearing loss.

Mr. ___ reports that he was diagnosed with nephrotic syndrome 
of unclear etiology at age ___ in the setting of anasarca and 
foamy urine. He was treated with prednisone and cellcept, 
discontinued about ___ years ago. He denies recurrence of these 
symptoms since, and is no longer followed at ___.

He reports that he was in his usual state of health until
yesterday evening. He was smoking marijuana and drinking alcohol
with friends at his mother's house when he noticed numbness on
the tip of his tongue, similar to a sensation he's had 
previously
prior to development of a "canker sore" in that location. He
proceeded to drink about ___ bottle of rum while moving 
furniture
around his mother's house, after which he fell asleep 
intoxicated
on his mother's couch. He awoke this morning hungover (with mild
headache and nausea) and noticed b/l hearing loss, new from the
night before. He fell back asleep and awoke a few more times 
over
the next few hours; about 4 hours after initially developing the
hearing loss, it had resolved entirely. He subsequently noticed
numbness and weakness of the posterior R thigh, pain with point
tenderness over the medial L thigh, and a painful rash on the R
shoulder and R forehead. He denies F/C, CP, SOB, cough, 
abdominal
pain, emesis, diarrhea/constipation, melena/hematochezia,
dysuria/hematuria/foamy urine, neck stiffness, vision changes, 
or
lower extremity edema. His headache and nausea resolved, but
given difficulty walking on his R leg, he presented to
___, where initial vitals were normal and labs were
notable for WBC 14.1, Cr 1.2, AST/ALT 401/155, CK ___, CRP 
0.9.
CXR and NCHCT head were normal. He Received 2L NS at ___ 
and
was transferred to ___.

In the ___ ED:
T97.7, BP 103/75, HR 66, RR 18, 100% RA
Exam: not documented
Labs: WBC 11.5, BMP WNL, AST 341/ALT 138, CK ___, TSH WNL
Imaging: None
Consults: Rheum - autoimmune process thought less likely

On arrival to the floor, Mr. ___ reports persistent L thigh
pain and R posterior thigh numbness extending below his R knee,
as well as a painful rash of the R shoulder and R foreheard. He
denies hearing loss, HA, neck stiffness, or vision changes. In
addition, he denies F/C, CP, SOB, cough, abdominal pain, N/V,
diarrhea/constipation, melena/hematochezia, dysuria/hematuria. 
He
reports that he is a ___ and was on a job yesterday in the hot
sun. He enjoys dirt-biking and was last in the woods riding a 
few
days ago; no tick bites that he noticed. Denies sick contacts,
recent travel, or ingestions (including of herbal or
body-building supplements).

Had also used cocaine for the second time in that period.

ROS: As above; otherwise 10 point ROS negative in detail.

 
Past Medical History:
Nephrotic Syndrome (diagnosed at age ___, s/p prednisone and 
cellcept, last ___ years ago)

 
Social History:
___
Family History:
No family history of autoimmune conditions.
 
Physical Exam:
Admission exam
VITALS: 
24 HR Data (last updated ___ @ 1653)
Temp: 98.3 (Tm 98.3), BP: 134/80, HR: 68, RR: 18, O2 sat: 97%, 
O2
delivery: RA  
GENERAL: Fatigued-appearing, yawning frequently throughout
interview
EYES: PERRL, EOMI, anicteric sclerae
ENT: OP clear, MMM, no oral lesions 
CV: RRR, nl S1, S2, no m/r/g
RESP: CTAB
GI: + BS, soft, NT, ND, no HSM
GU: No suprapubic fullness or tenderness to palpation; no 
genital
lesions/ulcers
MSK: Lower extremities warm without edema; exquisite point
tenderness over the L anterior thigh without clear fluctuance,
crepitus, or overlying lesions; no evidence of compartment
syndrome
SKIN: vesicular/pustular lesions on erythematous base on the R
shoulder and R forehead (see OMR for photos); no Shawl sign or
Gottron's papules
NEURO: AOX3, CN II-XII intact, ___ proximal/distal strength
RUE/LUE/LLE, ___ strength RLE, decreased sensation posterior R
thigh, Achilles/patellar reflexes 2+ b/l, toes downgoing b/l
PSYCH: pleasant, appropriate affect

Discharge exam
VITALS: 
98.3 PO 123 / 69 55 16 99 Ra 
GENERAL: well appearing
EYES: PERRL, EOMI, anicteric sclerae
ENT: OP clear, MMM, no oral lesions 
CV: RRR, nl S1, S2, no m/r/g
RESP: CTAB
GI: + BS, soft, NT, ND, no HSM
GU: No suprapubic fullness or tenderness to palpation; no 
genital
lesions/ulcers
MSK: Lower extremities warm without edema; tenderness of thigh 
had essentially resolved.
SKIN: vesicular/pustular lesions on the rt forehead has resolve. 
rt shoulder rash was improved with no further pustules. 
NEURO: AOX3, CN II-XII intact, ___ proximal/distal strength
RUE/LUE/LLE, strength back to normal
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs
___ 10:30PM URINE  HOURS-RANDOM
___ 10:30PM URINE  HOURS-RANDOM CREAT-58 TOT PROT-4 
PROT/CREA-0.1
___ 10:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:30PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:30PM URINE  AMORPH-RARE*
___ 10:30PM URINE  MUCOUS-RARE*
___ 07:35PM   ALT(SGPT)-145* AST(SGOT)-345* ___ 
ALK PHOS-57 TOT BILI-0.7
___ 07:35PM   CRP-6.0*
___ 07:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:01PM   LACTATE-1.3
___ 12:50PM   GLUCOSE-99 UREA N-15 CREAT-1.0 SODIUM-137 
POTASSIUM-4.8 CHLORIDE-101 TOTAL CO2-24 ANION GAP-12
___ 12:50PM   estGFR-Using this
___ 12:50PM   ALT(SGPT)-138* AST(SGOT)-341* ___ 
ALK PHOS-56 TOT BILI-0.6
___ 12:50PM   LIPASE-25
___ 12:50PM   ALBUMIN-3.8
___ 12:50PM   TSH-0.81
___ 12:50PM   WBC-11.5* RBC-4.46* HGB-14.1 HCT-39.7* MCV-89 
MCH-31.6 MCHC-35.5 RDW-12.3 RDWSD-39.7
___ 12:50PM   NEUTS-72.5* ___ MONOS-6.5 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-8.33* AbsLymp-2.33 AbsMono-0.75 
AbsEos-0.02* AbsBaso-0.04
___ 12:50PM   PLT COUNT-158

Microbiology
___
 A.phagocytophil DNA PCR NEGATIVE  
 Babesia microti DNA PCR NEGATIVE  
 Borrelia (PCR) NEGATIVE  
 Lyme IgG (Western Blot) < 1  
 # React Bands w OspA 0  
 # React Bands No OspA 1  
 Lyme IgG 39/40 (Blot)  
 Lyme IgG ___ (Blot) 58  
 Lyme Disease IgA Ab < 1  
 Lyme IgM (Western Blot) < 1 

___ Culture, Routine-PENDING
___ Culture, Routine-PENDING

ECG
EKG (___):
NSR at 55 bpm, nl axis, PR 116, QRS 102, QTC 428, upsloping ST
elevations V3-V4 (no priors for comparison)

Imaging
CXR ___, ___:
1. There is no evidence of an acute cardiac or pulmonary 
process.

___ ___, ___:
1. There is no evidence of acute intracranial hemorrhage, a 
large
acute territorial infarction, or an intracranial mass.

___ CT left lower extremity -- IMPRESSION: 2.7 x 1.9 x 3.9 cm 
lobulated hypodensity within the vastus medialis muscle near the 
area marked by a metallic marker.  No rim enhancement.  This may 
represent a phlegmon or early abscess.  MRI with contrast is 
recommended for further evaluation.
RECOMMENDATION(S):  MRI with contrast

___ MRI thigh -- IMPRESSION: Localized muscle edema within the 
left vastus medialis muscle with a central nonenhancing 
component consistent with either myonecrosis, a phlegmon or 
sequelae of prior intervention.  Mild surrounding muscle edema 
and hyper enhancement is consistent with myositis.  No drainable 
fluid collection.  Focal muscle edema seen in a similar 
distribution in the right vastus medialis without the area of 
hypoenhancement consistent with myositis, nonspecific in 
appearance.

Discharge labs

___ 07:35AM BLOOD WBC-5.3 RBC-3.99* Hgb-12.1* Hct-34.7* 
MCV-87 MCH-30.3 MCHC-34.9 RDW-11.9 RDWSD-37.7 Plt ___
___ 07:35AM BLOOD Glucose-91 UreaN-8 Creat-0.9 Na-144 K-3.8 
Cl-106 HCO3-28 AnGap-10
___ 07:35AM BLOOD ALT-87* AST-155* CK(CPK)-385___*
 
Brief Hospital Course:
___ man with a history of nephrotic syndrome as a child 
(suspected minimal-change disease that resolved), currently with 
no active known medical problems, admitted with rhabdomyolysis. 

We are attributing the rhabdomyolysis to heat, dehydration, 
physical exertion, alcohol use and cocaine use. MRI of left 
thigh shows areas of myonecrosis, but no active infection. 

#Rhabdomyolysis
#Mild transaminitis
#L anterior thigh pain (improving), R posterior thigh numbness 
(resolved)
#Significant alcohol use
#Cocaine use
-Suspect that dehydration, physical activity, cocaine use, and 
alcohol use, all combined to lead to rhabdomyolysis
-His CK improved with IV fluids
-CT L thigh to evaluate for any lesion there given the point
tenderness showed an area of concern (see results section), so 
an MRI was performed which showed muscle inflammation -- 
clinically he did not have an infection, and the imaging 
findings fit better with a pressure injury to that part of the 
leg contributing to his rhabdomyolysis, no further workup or 
treatment was directed to this area 
-Patient was seen by social work spoke with him about his 
substance use, and he is committed to never using cocaine again, 
but it is unclear that he appreciates the gravity of and risks 
of binge drinking.  He was given information to arrange 
outpatient counseling, which should be followed up as an 
outpatient by a primary care physician, to ensure that he has 
made that connection.  He has had many life stressors, from a 
young age, and has current life stressors.  His substance use is 
a form of self-medication, and he could benefit greatly from 
counseling.

#Zoster-like rash, R shoulder, R & L forehead
-The patient's rash did not have a fully classical appearance 
for zoster, however they were close enough that we decided to 
treat empirically
–The patient was seen by Dermatology who agreed with this plan
–specimens were collected for DFA or herpes zoster virus and 
herpes simplex, however unfortunately they did not have any 
cells so not be run
-HSV 1 and 2 IgG were both negative, IgM is pending
-He had no known immunosuppression, and HIV antibody and viral 
load were negative
–There initially was some concern for a rheumatological disease 
(given his history of nephrotic syndrome, see below), so patient 
was seen by Rheumatology, who recommended checking hepatitis A, 
B, and C which were all negative (he should get hepatitis B 
vaccination non-urgently), and lupus anticoagulant, ANCA, ___, 
Sjogren's antibodies, and ESR were all negative
-Given low total protein, Rheumatology recommended checking 
quantitative immunoglobulins, which are normal
-Given the concern for zoster with involvement of the V1 nerve, 
Ophthalmology was consulted and had no concerns
-He was begun on acyclovir IV starting ___, and transitioned 
to oral valacyclovir at the direction of Dermatology on ___, 
and should complete a total 10 day course
-Given multiple dermatomes and that it may have crossed the 
midline, we treated it as potential disseminated zoster

#Prior concern for tickborne illness - testing at outside 
hospital all negative

#Transient hearing loss --see HPI above, the patient complained 
of this prior to admission, and it resolved by the time he 
arrived to ___

# History of nephrotic syndrome:
-Previously treated at ___ with 
prednisone/cellcept, but not on therapy for last ___ years. UA 
without e/o proteinuria.
-outpatient f/u PRN

#Mild thrombocytopenia
-Suspect this was related to hemodilution, and a CBC can be 
checked as an outpatient

TRANSITIONAL ISSUES:
- We are trying to facilitate a primary care appointment. 
Unfortunately this was not completed by discharge as it was 
complicated by lack of insurance. The discharge planning service 
will be calling him. we also recommended that he follow-up with 
a local ___ health ___ as another option.
- At follow-up he should check his liver function tests, CK, and 
CBC to see they have all normalized.
- We also recommended counseling for his substance use.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  ValACYclovir 1000 mg PO TID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Rhabdomyolysis
#Possible zoster versus skin inflammation/folliculitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with muscle breakdown from a variety of 
causes, most likely due to alcohol, as well as skin rash that 
was of unclear cause.  With IV fluids, and an antiviral 
medication, as well as topical antibacterial ointment, you 
improved.  It will be important to follow-up with a primary care 
doctor.

When you see this doctor keys to check on the following tests: 
CK, LFT to make sure they have returned to normal.
 
Followup Instructions:
___